US08629137B2
7-methoxy-3-{1-[6-(1,3,3,7-tetramethyl-2,3-dihydro-1H-indol-5-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
48 mg (0.17 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one, 55 mg (0.17 mmol) (6-chloro-pyrimidin-4-yl)-(1,3,3,7-tetramethyl-2,3-dihydro-1H-indol-5-yl)-methanone and 0.050 mL (0.29 mmol) DIPEA were combined in 2 mL DMF and stirred overnight at 40° C. Then the reaction mixture was purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 0.17 mmol, 48 mg | COC=1C=CC2=C(CCN(C(N2)=O)C2CCNCC2)C1 | C15H21N3O2
reactant | (6-chloro-pyrimidin-4-yl)-(1,3,3,7-tetramethyl-2,3-dihydro-1H-indol-5-yl)-methanone | 0.17 mmol, 55 mg | ClC1=CC(=NC=N1)C(=O)C=1C=C2C(CN(C2=C(C1)C)C)(C)C | C17H18ClN3O
reactant | DIPEA | 0.29 mmol, 0.050 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 7-methoxy-3-{1-[6-(1,3,3,7-tetramethyl-2,3-dihydro-1H-indol-5-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | COC1=CC2=C(NC(N(CC2)C2CCN(CC2)C2=NC=NC(=C2)C(=O)C=2C=C3C(CN(C3=C(C2)C)C)(C)C)=O)C=C1 | C32H38N6O3
